US07618975B2
(2-Dimethylamino-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine
The title compound was prepared from (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine (69 mg, 0.23 mmol) and 2.0 M dimethylamine in methanol (4 ml, 8 mmol) by a procedure similar to example 122 (51%). 1H NMR (CDCl3): 8.02 (d, J=2.7 Hz, 1H), 7.47 (d, J=8.1 Hz, 1H), 7.38-7.34 (m, 2H), 6.93 (d, J=8.4 Hz, 1H), 6.75-6.66 (m, 2H), 3.94 (s, 3H), 3.51 (s, 3H), 3.30 (s, 6H).

reactant | (2-chloro-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | 0.23 mmol, 69 mg | ClC1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC | C15H13ClN4O
reactant | dimethylamine | 2.0 M | CNC | C2H7N
reactant | methanol | 8 mmol, 4 ml | CO | CH4O
product | (2-Dimethylamino-quinazolin-4-yl)-(6-methoxy-pyridin-3-yl)-methyl-amine | CN(C1=NC2=CC=CC=C2C(=N1)N(C)C=1C=NC(=CC1)OC)C | C17H19N5O
